US08912188B2
To a solution of methyl 3-(azepan-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (100 mg, 0.33 mmol) in dichloromethane (30 mL) was added pyridine (104 mg, 1.31 mmol) and then Tf2O (186 mg, 0.66 mmol) was added dropwise with stirring at 0° C. The resulting solution was stirred overnight at room temperature and then quenched by the addition of ice-water (20 mL), extracted with dichloromethane (3×10 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to afford methyl 3-(azepan-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as red oil (200 mg, crude).

reactant | methyl 3-(azepan-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 0.33 mmol, 100 mg | N1(CCCCCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C16H19N3O3
reactant | pyridine | 1.31 mmol, 104 mg | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 0.66 mmol, 186 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl 3-(azepan-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | N1(CCCCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C17H18F3N3O5S
